US06610707B1
Methyl (2S)-1-[(cyclohexylmethyl)sulfonyl]-2-piperidinecarboxylate (3.0 g) [see Preparation 25) was dissolved in 1,4-dioxane (30 ml) and 0.88 aqueous ammonia solution (25 ml) was added. Ammonia gas was bubbled through the mixture for 20 mins. and the reaction mixture was heated to 100° C. in a sealed vessel for 56 hours. After this time the mixture was cooled and the solvent removed under reduced pressure. The residue was taken up in ethyl acetate and washed with saturated aqueous sodium hydrogen carbonate solution, brine, dried over magnesium sulphate and the solvent was removed under reduced pressure to afford (2S)-1-[(cyclohexylmethyl)sulfonyl]-2-piperidinecarboxamide (1.77 g) as a colourless oil.

reactant | Methyl (2S)-1-[(cyclohexylmethyl)sulfonyl]-2-piperidinecarboxylate | 3.0 g | C1(CCCCC1)CS(=O)(=O)N1[C@@H](CCCC1)C(=O)OC | C14H25NO4S
reactant | ammonia | 25 ml | N | H3N
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | (2S)-1-[(cyclohexylmethyl)sulfonyl]-2-piperidinecarboxamide | 1.77 g | C1(CCCCC1)CS(=O)(=O)N1[C@@H](CCCC1)C(=O)N | C13H24N2O3S
